US04233309
Alanine ethyl ester hydrochloride (30.8g; 0.2 mole) was dissolved in 100 ml of acetic acid. Acetonylacetone (22.8 g; 0.2 mole) and then 16.4 g (0.2 mole) of sodium acetate were added to the solution, and the mixture heated under reflux for 5 hours. The acetic acid was distilled off under reduced pressure, and ethyl acetate added to the residue. The organic layer was washed with an aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to afford 29.2 g of a crude product. The product was chromatographed on a column of silica gel using cyclohexane/ethyl acetate (4/1) as an eluent to afford ethyl 2-(2,5-dimethylpyrrol-1-yl)propionate (23.0 g, 0.118 mole, 59.0%).

reactant | Alanine ethyl ester hydrochloride | 0.2 mole, 30.8g | Cl.C(C)OC([C@@H](N)C)=O
reactant | Acetonylacetone | 0.2 mole, 22.8 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | sodium acetate | 0.2 mole, 16.4 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-(2,5-dimethylpyrrol-1-yl)propionate | 0.118 mole, 23.0 g, 59.0% | CC=1N(C(=CC1)C)C(C(=O)OCC)C | C11H17NO2
